US09328134B2
In a 1000 mL three neck round bottom flask, a solution of (3aS,6R,6aS)-6-((R)-2, 2-dimethyl-1, 3-dioxolan-4-yl)-2, 2-dimethyldihydrofuro[3,4-d][1,3]dioxol-4(3aH)-one (30 g, 116.2 mmol, 1eq) in THF (600 mL) was treated with TMSCF3 (2M in THF, 122 mL, 244 mmol, commercially available from Sigma Aldrich, India) and tetraethylammonium fluoride (TEAF, 2.48 g, 23.24 mmol, Apollo scientific, UK) at rt under a nitrogen atmosphere. The reaction mixture was stirred at rt for 30 minutes and additional TEAF (24.8 g, 232.4 mmol, Apollo scientific, UK) was added to the reaction mixture. The resulting reaction mixture was stirred at rt for 12 h under a nitrogen atmosphere. Upon completion of the reaction (TLC, 30% EtOAc-hexanes, Rf 0.6), the reaction mixture was diluted with water (1000 mL), and it was then extracted with EtOAc (500 mL×2). The combined organic extracts were washed with water (250 mL), brine (250 mL) and dried over anhydrous Na2SO4. The solution was concentrated under reduced pressure. The residue obtained was purified by silica gel (60-120 mesh) column chromatography (gradient elution, 5-10% EtOAc-hexanes) to give (3aS,6R,6aS)-6-((R)-2,2-dimethyl-1,3-dioxolan-4-yl)-2,2-dimethyl-4-(trifluoromethyl)tetrahydrofuro[3,4-d][1,3]-dioxol-4-ol, as a yellow semi solid mixture of two isomers (27.3 g, 71.8%): 1H NMR (400 MHz, CDCl3) δ 4.95 (m, 2H), 4.78 (d, J=8 Hz, 1H), 4.61-4.32 (m, 2H), 4.23 (dd, J=8, 4 Hz, 1H), 4.18-4.10 (m, 3H), 4.06 (dd, J=8.0, 4.0 Hz, 2H), 3.98 (m, 1H), 1.52 (s, 3H), 1.47 (s, 3H), 1.46 (s, 3H), 1.40 (s, 3H), 1.39 (s, 3H), 1.36 (s, 3H); 19F NMR (376.17 MHz, CDCl3) δ −78.24 & −82.32 ppm.

reactant | (3aS,6R,6aS)-6-((R)-2, 2-dimethyl-1, 3-dioxolan-4-yl)-2, 2-dimethyldihydrofuro[3,4-d][1,3]dioxol-4(3aH)-one | 116.2 mmol, 30 g, 1eq | CC1(OC[C@@H](O1)[C@H]1OC([C@@H]2[C@H]1OC(O2)(C)C)=O)C | C12H18O6
reactant | TMSCF3 | [Si](C)(C)(C)C(F)(F)F | C4H9F3Si
reactant | tetraethylammonium fluoride | 23.24 mmol, 2.48 g | [F-].C(C)[N+](CC)(CC)CC
reactant | TEAF | 232.4 mmol, 24.8 g | [F-].C(C)[N+](CC)(CC)CC
solvent | THF | 600 mL | C1CCOC1 | C4H8O
solvent | water | 1000 mL | O | H2O
product | (3aS,6R,6aS)-6-((R)-2,2-dimethyl-1,3-dioxolan-4-yl)-2,2-dimethyl-4-(trifluoromethyl)tetrahydrofuro[3,4-d][1,3]-dioxol-4-ol | CC1(OC[C@@H](O1)[C@H]1OC([C@@H]2[C@H]1OC(O2)(C)C)(O)C(F)(F)F)C | C13H19F3O6
